Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
budesonide / erythromycin base / Penicillins / formoterol
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ lung biopsy ___

 
History of Present Illness:
Ms. ___ is a ___ woman with h/o T2DM, HLD and asthma who 
presents with abdominal pain and transferred to ___ for 
further care.

She reports she was in her usual state of health until ___ 
when she developed a gassy sort of pain in her upper abdomen. It 
worsened on ___ and thus she presented to the ED at
___. The pain sometimes radiated up in her 
chest. It was not associated with food and did not increase or 
decrease with eating. She denies any nausea or vomiting. She
denies any fevers or chills. Denies any night sweats. Denies any 
diarrhea or constipation. She has never had pain like this 
before. She does endorse a little bit of fatigue over this past
week. She lost about ___ pounds at the beginning of the year, 
but states this was intention and took about 6 months to 
achieve. Over the summer, she gained back about 5 pounds and her 
weights have been stable over the past couple of months. 

In the OSH ED, she was evaluated with a RUQ u/s which showed a 
4.5cm mass posterior to the right lobe of the liver and separate 
from the pancreas. She had a follow-up CT abd/pelvis which 
showed a 3.2 x 3.1 cm RLL lung mass and a 4.9 x 3.7cm soft 
tissue mass in the upper abdomen just superior to the celiac 
trunk. Labs showed WBC count of 14.2, ALT/AST ___ ALP 106 and 
tbili of 1.0. She was given 4mg morphine x 2, IV Zofran and IVF. 
She then requested transfer to ___ for further care. 

In the ___ ED initial vitals were: 98.2 102 134/63 18 98% RA
- repeat labs showed WBC of 12.4
- she was then admitted for further care

On the floor, patient is well. She is complaining of some gassy 
discomfort of her abdomen after drinking the contrast for her CT 
scan. She denies any nausea. She does not have any of the pain 
from the weekend currently. She is anxious about the new 
diagnosis. Her last mammogram was about 14 months ago and was 
normal. 

ROS: per HPI, otherwise negative
 
Past Medical History:
T2DM, non-insulin dependent
HLD
Asthma

 
Social History:
___
Family History:
Mother has CAD with stents
Father with diabetes
Grandmother had lung ___ in her ___, she was a long-time 
smoker
 
Physical Exam:
Admission exam
Vitals: 97.7 118/76 76 16 97% RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck
supple, JVP not elevated, no LAD - there is a 4cm diameter 
fleshy
cystic structure by the right clavicle, nontender and mobile 
(per
patient, has been present for a while, stable in size)
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: alert and oriented, CNII-XII intact, ___ strength
upper/lower extremities, grossly normal sensation,

Discharge exam:
vitals: 98.1 ___
General: well appearing woman in no acute distress
HEENT: PERRL EOMI, oropharynx clear
CV: r/r/r, no m/r/g
Abd: soft, nontender, nondistended

 
Pertinent Results:
Admission labs:
___ 05:11AM BLOOD WBC-12.4* RBC-4.33 Hgb-13.1 Hct-38.2 
MCV-88 MCH-30.3 MCHC-34.3 RDW-13.2 RDWSD-43.0 Plt ___
___ 05:11AM BLOOD ___ PTT-28.4 ___
___ 05:11AM BLOOD Glucose-239* UreaN-5* Creat-0.5 Na-137 
K-3.6 Cl-100 HCO3-19* AnGap-22*
___ 05:11AM BLOOD ALT-32 AST-22 LD(___)-382* AlkPhos-102 
TotBili-1.1
___ 05:11AM BLOOD Albumin-4.3 Calcium-8.6 Phos-3.1 Mg-1.8 
UricAcd-4.2

Discharge labs:
___ 06:25AM BLOOD WBC-7.4 RBC-4.38 Hgb-13.1 Hct-38.3 MCV-87 
MCH-29.9 MCHC-34.2 RDW-12.8 RDWSD-41.4 Plt ___
___ 06:25AM BLOOD Glucose-217* UreaN-9 Creat-0.5 Na-136 
K-4.3 Cl-100 HCO3-22 AnGap-18
___ 06:25AM BLOOD LD(LDH)-262*
___ 06:25AM BLOOD Calcium-9.2 Phos-4.3 Mg-1.9 UricAcd-3.8
___ 10:20AM BLOOD SEROTONIN - FROZEN-PND
___ 10:20AM BLOOD CHROMOGRANIN A-PND

Imaging:

___ CT second opinion read
IMPRESSION:
1. A 4.8 cm soft tissue mass superior to the celiac trunk may be 
an enlarged lymph node or a mass arising from caudate lobe of 
the liver, concerning for malignancy.  MRI may be helpful for 
further characterization.
2. Fibroid uterus.

___ CT chest
IMPRESSION: 
Lobulated pulmonary nodule in the right lower lobe is highly 
suspicious for
malignancy. Necrotic right hilar lymph nodes, borderline 
subcarinal lymph
node, and necrotic upper abdominal soft tissue mass.
 
Differential diagnosis includes primary lung cancer or atypical 
carcinoid with
metastatic disease to right hilum and upper abdomen, as well as 
pulmonary
metastatic disease from an extrathoracic primary.
 
The lobulated lesion in the posterior basal segment of the right 
lower lobe
would be amenable to image guided percutaneous biopsy.

___ MRI head
IMPRESSION
1. Paranasal sinus inflammatory changes.  Otherwise normal 
study.

___ CXR
IMPRESSION: 
No previous images.  Following biopsy of presumably the large 
mass in the
right mid to lower lung, there is no evidence of post procedure 
pneumothorax. 
The left lung is essentially clear.
 
Brief Hospital Course:
Ms. ___ is a ___ woman with h/o DM and HLD who presents 
with abdominal pain and found to have new masses in her abdomen 
and lung, concerning for malignancy.

# New abdominal mass and lung mass
Concerning for metastatic cancer as this time. She had staging 
CT chest and MRI brain completed, which showed lesions confined 
to abdomen and chest. Tumor lysis labs were monitored daily and 
were not consistent with TLS. Serotonin, chromogranin, and urine 
5-HIAA were sent for carcinoid workup and are pending at 
discharge. Ultimately, ___ biopsied the RLL lesion, which patient 
tolerated well. Pathology pending at discharge and oncology will 
arranged for appropriate follow-up.

# Abdominal pain
Unclear etiology, but resolved upon admission to the hospital. 
Unlikely to be related to mass as pain and symptoms resolved. 
Perhaps due to gastroenteritis or gastritis. 

# Leukocytosis
Most likely reactive in setting of abdominal pain and stress. 
Improved at discharge to 7.4 without interventions. 

# T2DM: Home metformin and Januvia were held during admission 
and resumed at discharge. Patient managed with ISS while 
hospitalized.

# HLD: Home rosuvastatin continued.

> 30 minutes were spent on day of discharge care planning and 
coordination.

Transitional issues:
- serotonin, chromogranin and urine 5-HIAA pending at discharge
- final pathology read pending at discharge, oncology to follow 
results and arrange for appropriate follow-up

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 20 mg PO QPM 
2. Minastrin ___ Fe (norethindrone-e.estradiol-iron) 1 mg-20 
mcg(24) /75 mg (4) oral DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Januvia (SITagliptin) 100 mg oral DAILY 

 
Discharge Medications:
1.  Januvia (SITagliptin) 100 mg oral DAILY  
2.  MetFORMIN (Glucophage) 1000 mg PO BID  
3.  Minastrin ___ Fe (norethindrone-e.estradiol-iron) 1 mg-20 
mcg(24) /75 mg (4) oral DAILY  
4.  Rosuvastatin Calcium 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
New Lung and Abdominal Mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you during your stay at ___ 
___. You were admitted for abdominal pain 
and were found to have masses in your abdomen and lung. The mass 
in your lung was biopsied and the pathology results are pending.

If you have any questions or concerns while awaiting your 
biopsy, please call either Dr. ___ Dr. ___ at 
___.

You will be contacted by our oncology team for follow-up 
recommendations.

Please take care,
Your ___ Team
 
Followup Instructions:
___